US07750154B2
Using an analogous procedure to that described paragraph (B) in the portion of Example 1, which is concerned with the preparation of starting materials, and tert-butyl(1S,4S)-(−)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give of tert-butyl(1S,4S)-5-{3-[({5-[(cyclopropylamino)carbonyl]-2-methylphenyl}amino)carbonyl]-4-nitrophenyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate; NMR Spectrum: (DMSOd6) 0.59 (m, 2H), 0.70 (m, 2H), 1.39 (d, 9H), 2.00 (m, 2H), 2.32 (s, 3H), 2.54 (s, 2H), 2.86 (m, 1H), 3.40 (m, 1H), 3.66 (t, 1H), 4.53 (d, 1H), 4.87 (s, 1H), 6.80 (s, 2H), 7.30 (d, 1H), 7.58 (m, 1H), 8.01 (s, 1H), 8.07 (d, 1H), 8.38 (d, 1H), 9.90 (s, 1H); Mass Spectrum: M+H+ 536.

reactant | tert-butyl(1S,4S)-(−)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | tert-butyl(1S,4S)-5-{3-[({5-[(cyclopropylamino)carbonyl]-2-methylphenyl}amino)carbonyl]-4-nitrophenyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C=1C=C(C=CC1[N+](=O)[O-])N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C)C | C28H33N5O6
